### PR TITLE
[Merged by Bors] - feat(Topology/Group): Open normal subgroup in clopen nhds of one

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Proving that there is always an open normal subgroup in a clopen nhd of compact topological group

Co-authored-by: NailinGuan <3571819596@qq.com> Yi Song <sif4delta0@mail.ustc.edu.cn> Xuchun Li <li.xuchun@qq.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by PatrickMassot** [comment]
I don’t understand why you want to use definitions instead of lemmas stating existence, since what you construct is not a canonical object. Not only the result looks a bit strange, but you need to suffer with all those `Classical.choose` and `Classical.choose_spec` (by the way, you could use `Exists.choose` and `Exists.choose_spec` to get access to dot notation).

Why not finishing the main file with
```
@[to_additive]
lemma iUnion_pow {G : Type*} [Group G] {V : Set G} (einV : 1 ∈ V) :
    {x : G | ∃ n : ℕ, x ∈ V ^ n} = ⋃ n , V ^ (n + 1) := by
  …

@[to_additive "An open subgroup that is contained in a given clopen neighborhood of `1`."]
lemma OpenSubgroupSubClopenNhdsOfOne {G : Type*} [Group G] [TopologicalSpace G] [TopologicalGroup G]
    [CompactSpace G] {W : Set G} (WClopen : IsClopen W) (einW : 1 ∈ W) : 
    ∃ H : OpenSubgroup G, (H : Set G) ⊆ W := by
  rcases exists_mulInvClosureNhd WClopen with ⟨T, hT⟩
  let S : Subgroup G := {
    carrier := {x : G | ∃ n : ℕ, x ∈ T ^ n}
    mul_mem':= by
      rintro a b ⟨na, hna⟩ ⟨nb, hnb⟩
      use na + nb
      rw [pow_add]
      exact Set.mul_mem_mul hna hnb
    one_mem':= ⟨1, (by simp only [pow_one, mem_of_mem_nhds hT.nhd])⟩
    inv_mem':= by
      simp only [Set.mem_setOf_eq, forall_exists_index]
      intro x m hm
      use m
      rw [← hT.inv]
      simpa using hm }
  refine ⟨⟨S, ?_⟩, ?_⟩
  · simp only [iUnion_pow <| mem_of_mem_nhds hT.nhd]
    refine isOpen_iUnion (fun n ↦ ?_)
    rw [pow_succ]
    exact IsOpen.mul_left hT.isOpen
  · change {x : G | ∃ n : ℕ, x ∈ T ^ n} ⊆ W 
    simp_rw [iUnion_pow (mem_of_mem_nhds hT.nhd), Set.iUnion_subset_iff]
    intro n _
    have mulVpow: W * T ^ (n + 1) ⊆ W := by
      induction' n with n ih
      · simp only [zero_add, pow_one, hT.mul]
      · rw [pow_succ, ← mul_assoc]
        exact le_trans (Set.mul_subset_mul_right ih) <|
          hT.mul
    apply le_trans _ mulVpow
    intro x xin
    rw [Set.mem_mul]
    use 1, einW, x, xin
    rw [one_mul]

end TopologicalGroup
```
Note how manipulating `T` and `hT` is less painful than what you do in your version. 

By the way, if you really want to keep `iUnion_pow` then it should move to some algebra file since this has nothing to do with topology, and probably also get a more descriptive name.

**Comment by Thmoas-Guan** [comment]
The lemma `iUnion_pow` is no longer needed, thus removed, the defs and properties are now retated with lemma of existence.

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean [hunk 1]
```diff
@@ -0,0 +1,29 @@
...
+-/
+import Mathlib.GroupTheory.Index
+import Mathlib.Topology.Algebra.ClosedSubgroup
+import Mathlib.Topology.Algebra.OpenSubgroup
+/-!
+# Open normal subgroup in a clopen neighborhood of One
+This file defines `OpenNormalSubgroupSubClopenNhdsOfOne`, which strengthens the result of
+`OpenSubgroupSubClopenNhdsOfOne` into open *normal* subgroups.
+
+This file is split out from the file `OpenSubgroup` because the need of more imports.
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/ClopenNhdofOne.lean:14]: Please update and improve formatting and grammar.

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean [hunk 2]
```diff
@@ -0,0 +1,29 @@
...
+-/
+
+namespace TopologicalGroup
+
+theorem existOpenNormalSubgroupSubClopenNhdsOfOne {G : Type*} [Group G] [TopologicalSpace G]
+    [TopologicalGroup G] [CompactSpace G] {W : Set G} (WClopen : IsClopen W) (einW : 1 ∈ W) :
+    ∃ H : OpenNormalSubgroup G, (H : Set G) ⊆ W := by
+  rcases existOpenSubgroupSubClopenNhdsOfOne WClopen einW with ⟨H, hH⟩
+  letI : Subgroup.FiniteIndex H.1 := Subgroup.finiteIndex_of_finite_quotient H.1
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/ClopenNhdofOne.lean:23]: Why `letI` instead of `have`? This is a `Prop`, and inlining brings nothing here.

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean [hunk 3]
```diff
@@ -0,0 +1,29 @@
...
+  use { toSubgroup := Subgroup.normalCore H
+        isOpen' := Subgroup.isOpen_of_isClosed_of_finiteIndex _ <|
+          Subgroup.normalCore_isClosed H.1 <| OpenSubgroup.isClosed H }
+  exact fun _ b ↦ hH (Subgroup.normalCore_le H.1 b)
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/ClopenNhdofOne.lean:27]: You can use generalized projections (aka dot notation) to condense all this, and also avoid explicit projection `H.1`. Something like
```
  rcases existOpenSubgroupSubClopenNhdsOfOne WClopen einW with ⟨H, hH⟩
  have : H.FiniteIndex := H.finiteIndex_of_finite_quotient
  use { toSubgroup := H.normalCore
        isOpen' := Subgroup.isOpen_of_isClosed_of_finiteIndex _ <|
          H.normalCore_isClosed <| H.isClosed }, fun _ b ↦ hH (H.normalCore_le b)

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 4]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
 end OpenNormalSubgroup
 
 end
+
+/-!
+## The Open Subgroup in a Clopen Neighborhood of One
+This section define `OpenSubgroupSubClopenNhdsOfOne` (`OpenNormalSubgroupSubClopenNhdsOfOne`),
+which can pick an open subgroup contained in a clopen neighborhood of `1`.
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:461]: Please update and improve formatting.

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 5]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+-/
+
+open scoped Pointwise
+
+variable {G : Type*} [TopologicalSpace G]
+
+structure TopologicalAddGroup.addNegClosureNhd (T W : Set G) [AddGroup G] : Prop where
+  nhd : T ∈ 𝓝 0
+  inv : -T = T
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:470]: Why do you keep the multiplicative name here and below in `mul`?

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 6]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+
+variable [Group G] [TopologicalGroup G] [CompactSpace G]
+
+open Set Filter
+
+@[to_additive]
+lemma exist_mul_closure_nhd {W : Set G} (WClopen : IsClopen W) : ∃ T ∈ 𝓝 (1 : G), W * T ⊆ W := by
+  apply WClopen.isClosed.isCompact.induction_on (p := fun S ↦ ∃ T ∈ 𝓝 (1 : G), S * T ⊆ W)
+    ⟨Set.univ ,by simp only [univ_mem, empty_mul, empty_subset, and_self]⟩
+    (fun _ _ huv ⟨T, hT, mem⟩ ↦ ⟨T, ⟨hT, (mul_subset_mul_right huv).trans mem⟩⟩)
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:493]: Those nested ⟨⟩ should not be necessary since ⟨⟩ is right-associative.

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 7]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+    fun U V ⟨T₁, hT₁, mem1⟩ ⟨T₂, hT₂, mem2⟩ ↦ ⟨T₁ ∩ T₂, ⟨inter_mem hT₁ hT₂, by
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:494]: Same here.

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 8]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+      rw [union_mul]
+      exact union_subset (mul_subset_mul_left inter_subset_left |>.trans mem1)
+        (mul_subset_mul_left inter_subset_right |>.trans mem2)⟩⟩
+  intro x memW
+  have : (x, 1) ∈ (fun p ↦ p.1 * p.2) ⁻¹' W := by simp only [mem_preimage, mul_one, memW]
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:499]: Is there any reason to use `simp only` here? Is `simp [memW]` too slow?

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 9]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+  rcases isOpen_prod_iff.mp (continuous_mul.isOpen_preimage W <| WClopen.2) x 1 this with
+    ⟨U, V, h1, h2, h3, h4, h5⟩
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:501]: Could you please use more descriptive names for those assumptions h1 to h5?

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 10]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+  have h6 : U * V ⊆ W := mul_subset_iff.mpr (fun _ hx _ hy ↦ h5 (mk_mem_prod hx hy))
+  exact ⟨U ∩ W, ⟨⟨U, ⟨IsOpen.mem_nhds h1 h3, ⟨W, ⟨fun _ a ↦ a, rfl⟩⟩⟩⟩,
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:503]: You can probably use dot notation here.

Comment (PatrickMassot) [reply Mathlib/Topology/Algebra/OpenSubgroup.lean:503]: And also get rid of most pairs of ⟨⟩

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 11]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+    ⟨V, ⟨IsOpen.mem_nhds h2 h4, fun _ a ↦ h6 ((mul_subset_mul_right inter_subset_left) a)⟩⟩⟩⟩
+
+@[to_additive]
+lemma exists_mulInvClosureNhd {W : Set G} (WClopen : IsClopen W) :
+    ∃ T, mulInvClosureNhd T W := by
+  rcases exist_mul_closure_nhd WClopen with ⟨S, hS, h⟩
+  rcases mem_nhds_iff.mp hS with ⟨U, h1, h2, h3⟩
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:510]: Please use more descriptive names.

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 12]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+  use U ∩ U⁻¹
+  constructor
+  · exact IsOpen.mem_nhds (h2.inter h2.inv) (by simp only [mem_inter_iff, h3, Set.mem_inv, inv_one,
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:513]: Again, why the `simp only`? This is a terminal `simp`, there is no need to clutter the tactic script, I would try `  · exact (h2.inter h2.inv).mem_nhds (by simp [h3])`

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 13]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+    and_self])
+  · simp only [inter_inv, inv_inv, inter_comm]
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:515]: What about here? Does `simp` work?

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 14]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+    inv_mem' := fun ha ↦ by
+      rcases mem_iUnion.mp ha with ⟨k, hk⟩
+      apply mem_iUnion.mpr
+      use k
+      rw [← hV.inv]
+      simpa only [inv_pow, Set.mem_inv, inv_inv] using hk }
+  have : IsOpen (⋃ n , V ^ (n + 1)) := by
+    refine isOpen_iUnion (fun n ↦ ?_)
+    rw [pow_succ]
+    exact IsOpen.mul_left hV.isOpen
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:546]: dot notation?

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 15]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
...
+  use ⟨S, this⟩
+  have mulVpow (n : ℕ) : W * V ^ (n + 1) ⊆ W := by
+    induction' n with n ih
+    · simp only [zero_add, pow_one, hV.mul]
+    · rw [pow_succ, ← mul_assoc]
+      exact le_trans (Set.mul_subset_mul_right ih) <| hV.mul
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:552]: What is `<|` doing here? There is no parsing ambiguity without it. And what about writing `exact (Set.mul_subset_mul_right ih).trans hV.mul` instead?

File: Mathlib/Topology/Algebra/OpenSubgroup.lean (hunk 13 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/OpenSubgroup.lean:515]: It works, can be restated as `simp only [inter_mem_iff, IsOpen.mem_nhds h2 h3, inv_mem_nhds_one, and_self]`

File: Mathlib/Topology/Algebra/OpenSubgroup.lean (hunk 8 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/OpenSubgroup.lean:499]: I was once told not to leave amy `simp []` and use `simp only` instead because some stability between versions. So what is the convention we usually follow? Thank you

File: Mathlib/Topology/Algebra/OpenSubgroup.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/OpenSubgroup.lean:470]: oops, I forgot to change it. Thank you

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean (hunk 2 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/ClopenNhdofOne.lean:23]: Sorry, what do you mean "inlining brings nothing here"?

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean [hunk 16]
```diff
@@ -8,8 +8,9 @@ import Mathlib.Topology.Algebra.ClosedSubgroup
 import Mathlib.Topology.Algebra.OpenSubgroup
 /-!
 # Open normal subgroup in a clopen neighborhood of One
-This file defines `OpenNormalSubgroupSubClopenNhdsOfOne`, which strengthens the result of
-`OpenSubgroupSubClopenNhdsOfOne` into open *normal* subgroups.
+This file proved the lemma `TopologicalGroup.existOpenNormalSubgroupSubClopenNhdsOfOne`, which
+states that for any clopen neighborhood of 1, there exists an open normal subgroup
+contained within it.
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/ClopenNhdofOne.lean:13]: Please mention the compactness assumption.

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean [hunk 17]
```diff
@@ -20,10 +21,9 @@ theorem existOpenNormalSubgroupSubClopenNhdsOfOne {G : Type*} [Group G] [Topolog
     [TopologicalGroup G] [CompactSpace G] {W : Set G} (WClopen : IsClopen W) (einW : 1 ∈ W) :
     ∃ H : OpenNormalSubgroup G, (H : Set G) ⊆ W := by
   rcases existOpenSubgroupSubClopenNhdsOfOne WClopen einW with ⟨H, hH⟩
-  letI : Subgroup.FiniteIndex H.1 := Subgroup.finiteIndex_of_finite_quotient H.1
+  haveI : Subgroup.FiniteIndex H := H.finiteIndex_of_finite_quotient
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/ClopenNhdofOne.lean:24]: Why do you want `haveI` here instead of `have`?

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean [hunk 18]
```diff
@@ -8,8 +8,9 @@ import Mathlib.Topology.Algebra.ClosedSubgroup
 import Mathlib.Topology.Algebra.OpenSubgroup
 /-!
 # Open normal subgroup in a clopen neighborhood of One
-This file defines `OpenNormalSubgroupSubClopenNhdsOfOne`, which strengthens the result of
-`OpenSubgroupSubClopenNhdsOfOne` into open *normal* subgroups.
+This file proved the lemma `TopologicalGroup.existOpenNormalSubgroupSubClopenNhdsOfOne`, which
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/ClopenNhdofOne.lean:11]: Why “proved” instead of “proves”?

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 19]
```diff
@@ -457,8 +457,8 @@ end
 
 /-!
 ## The Open Subgroup in a Clopen Neighborhood of One
-This section define `OpenSubgroupSubClopenNhdsOfOne` (`OpenNormalSubgroupSubClopenNhdsOfOne`),
-which can pick an open subgroup contained in a clopen neighborhood of `1`.
+This section proved the lemma `TopologicalGroup.existOpenSubgroupSubClopenNhdsOfOne`, which
+states that for any clopen neighborhood of 1, there exists an open subgroup contained within it.
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:461]: Same remarks as in the previous file.

File: Mathlib/Topology/Algebra/OpenSubgroup.lean (hunk 8 above)
Comment (PatrickMassot) [reply Mathlib/Topology/Algebra/OpenSubgroup.lean:499]: This is only for non-terminal simps, or slow ones. Please read https://leanprover-community.github.io/extras/simp.html.

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean (hunk 2 above)
Comment (PatrickMassot) [reply Mathlib/Topology/Algebra/ClopenNhdofOne.lean]: Do you know the difference between `have` and `haveI`? It’s all about inlining (the letter `I` stands for inlining). So if you don’t know what inlining means then you should never use `haveI` or `letI`. See the explanations in [core Lean](https://github.com/leanprover/lean4/blob/ac80e261bd253e0d41de5027d5e8d25570b7f982/src/Init/Tactics.lean#L1125-L1129).

Note that, very confusingly, Lean 3 used to have tactics called `haveI` and `letI` that were completely unrelated to this (at that time the letter `I` stood for “instance”). So if you learned this in Lean 3, you simply need to forget about it. Those Lean 3 tactics are no longer needed in Lean 4.

Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/ClopenNhdofOne.lean]: Thank you, this should be changed into `have`

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean [hunk 20]
```diff
@@ -0,0 +1,29 @@
+/-
+Copyright (c) 2024 Nailin Guan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Nailin Guan, Yi Song, Xuchun Li
+-/
+import Mathlib.GroupTheory.Index
+import Mathlib.Topology.Algebra.ClosedSubgroup
+import Mathlib.Topology.Algebra.OpenSubgroup
+/-!
+# Open normal subgroup in a clopen neighborhood of One
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/ClopenNhdofOne.lean:10]:
```suggestion
# Existence of an open normal subgroup in any clopen neighborhood of the neutral element

```
This names covers the additive case as well (and the new line is needed).

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean [hunk 21]
```diff
@@ -0,0 +1,29 @@
...
+This file proves the lemma `TopologicalGroup.existOpenNormalSubgroupSubClopenNhdsOfOne`, which
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/ClopenNhdofOne.lean:11]: I forgot to say earlier: now that this became a lemma and not a definition, it should switch to the lemma naming convention. See https://leanprover-community.github.io/contribute/naming.html.

File: Mathlib/Topology/Algebra/ClopenNhdofOne.lean [hunk 22]
```diff
@@ -0,0 +1,29 @@
...
+states that in a compact topological group, for any clopen neighborhood of 1,
+there exists an open normal subgroup contained within it.
+
+This file is split out from the file `OpenSubgroup` because the need of more imports.
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/ClopenNhdofOne.lean:15]:
```suggestion
This file is split out from the file `OpenSubgroup` because it needs more imports.
```

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 23]
```diff
@@ -454,3 +454,107 @@ instance [ContinuousMul G] : Lattice (OpenNormalSubgroup G) :=
 end OpenNormalSubgroup
 
 end
+
+/-!
+## The Open Subgroup in a Clopen Neighborhood of One
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean:459]:
```suggestion
## Existence of an open subgroup in any clopen neighborhood of the neutral element

```
This names covers the additive case as well (and the new line is needed).

**Review by PatrickMassot — COMMENTED** [review]
We are almost done!

**Comment by PatrickMassot** [comment]
bors merge
